US05430153
3-Acetyl-8-ethyl-4-cyclopentylamino-2-quinolinone (400)
3-Acetyl-8-ethyl-4-methylsulfoxy-2-quinolinone (2.77g, 0.01 mol) and cyclopentylamine (0.86g, 0.01 mol) were used, but the reaction was carried out as the above process of example 37 to obtain the desired product (2.15g, yield: 72%).

reactant | 3-Acetyl-8-ethyl-4-methylsulfoxy-2-quinolinone | 0.01 mol, 2.77g | C(C)(=O)C=1C(NC2=C(C=CC(=C2C1C)OS(=O)(=O)O)CC)=O | C14H15NO6S
reactant | cyclopentylamine | 0.01 mol, 0.86g | C1(CCCC1)N | C5H11N
product | 3-Acetyl-8-ethyl-4-cyclopentylamino-2-quinolinone | 2.15g, yield: 72% | C(C)(=O)C=1C(NC2=C(C=CC=C2C1NC1CCCC1)CC)=O | C18H22N2O2
